US04229455
Step A: Preparation of 5-methylamino-5H-benzo[4,5]cyclohepta[1,2-b]pyridine
Methylamine (3.72 g., 0.12 mole) is added to a mechanically stirred mixture of benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (6.0 g., 0.03 mole) in benzene (150 ml.). A solution of TiCl4 (2.1 ml.) in benzene (50 ml.) is added and the mixture is stirred at 25° C. for 18 hours. Anhydrous potassium carbonate is added to the mixture and it is filtered through diatomaceous earth. The filtrate is evaporated to an amber oil (5.47 g.) which is dissolved in acetonitrile (150 ml.). Sodium borohydride (5.47 g., 0.025 mole) is added and the mixture is heated on a steam bath for 11/2 hours. Dilute HCl (3N) is added to the cooled reaction mixture and it is evaporated to dryness under reduced pressure. The residue is dissolved in 3N HCl (150 ml.), extracted with ether and the aqueous filtrate is made alkaline by the addition of 40% NaOH solution. The basic material is extracted into CHCl3 and concentrated to an amber oil (3.96 g.). This oil is converted to a hydrochloride salt by treatment with ethanolic hydrogen chloride for use in Step B.

reactant | Methylamine | 0.12 mole, 3.72 g | CN | CH5N
reactant | benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 0.03 mole, 6.0 g | N1=C2C(=CC=C1)C(C1=C(C=C2)C=CC=C1)=O | C14H9NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | Sodium borohydride | 0.025 mole, 5.47 g | [BH4-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
catalyst | TiCl4 | 2.1 ml | Cl[Ti](Cl)(Cl)Cl
product | 5-methylamino-5H-benzo[4,5]cyclohepta[1,2-b]pyridine | CNC1C2=C(C=CC3=NC=CC=C31)C=CC=C2 | C15H14N2
